reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C@@:3]([N:7]([H:13])[H:14])([H:12])[O:4][C:5]1=[O:6])([H:8])([H:9])[H:10],64.7101534836419
[O+:1](=[C-:2][H:7])[C@@:5]1([H:8])[C:3](=[O:4])[O:6]1>>[O:1]=[C:2]([C:3](=[O:4])[C:5](=[O:6])[H:8])[H:7],12.89557546986019
[O:1]([C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])[C:5](=[O:6])[C:7]1([H:14])[H:15])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@:3]1([H:11])[C:4]([H:12])=[C:5]([O:6][H:13])[C:7]1([H:14])[H:15])([H:9])[H:10])[H:8],79.1557608707933
[C:1](=[C:2]=[C:3]([C:4](=[O:5])[C:6]#[C:7][H:11])[H:9])([H:8])[H:10]>>[C:1]([C:2]#[C:3][C:4](=[O:5])[C:6]#[C:7][H:11])([H:8])([H:9])[H:10],86.47772624493082
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C:4][C:6]([H:13])([H:14])[C@@:7]1([O:5][H:12])[H:15])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@@:4]2([O:5][H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15])[H:8],43.77563539203808
[C:1]1([H:8])([H:9])[C@:2]2([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])([H:15])[C@@:7]1([H:17])[C@:6]2([C:5][H:14])[H:16]>>[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C:3]([H:11])([H:12])[C@:4]3([H:13])[C:5]([H:14])([H:15])[C@@:6]2([H:16])[C@:7]13[H:17],9.423045534068606
[N:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])([H:7])[H:8]>>[C-:5]#[O+:6].[N:1]([C:2]([O:3][H:11])=[C:4]([H:9])[H:10])([H:7])[H:8],45.893344748220215
[C:1]([C:5](=[O:6])[H:12])([H:7])([H:8])[H:9].[C:2](=[N:3][H:10])=[N:4][H:11]>>[C:1](/[C:2](=[N:3]\[H:10])[N:4]([C:5](=[O:6])[H:12])[H:11])([H:7])([H:8])[H:9],73.0283872621206
[C:1]([C:2]([O:3][C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C:4]([C:5]([H:12])([H:13])[H:15])=[C:6]([H:16])[H:18])([H:10])[H:11])([H:7])([H:8])[H:9].[H:14][H:17],116.63663750389999
[C-:3]#[O+:4].[C:1]([O:2][H:13])([H:7])([H:8])[H:9].[C:5](=[N:6][H:12])([H:10])[H:11]>>[C:1]([O:2][C:3](=[O:4])[C:5]([N:6]([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],40.6532148975508
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:5]([O:6][C:4]([H:13])([H:14])[H:15])[H:16])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[H:16])([H:7])([H:8])[H:9],81.8004247621111
[C+:1]([N:2]([C:3]([N:4]([H:9])[H:11])=[C:5]([O-:6])[H:12])[H:10])([H:7])[H:8]>>[C:1]([N:2](/[C:3](=[N:4]\[H:11])[C:5](=[O:6])[H:12])[H:10])([H:7])([H:8])[H:9],29.637980029547712
[O:1]([C:2]([C:3]([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]1[C:2]([H:8])([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5][C:6]1([H:7])[H:14],79.28875409588441
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5](=[O:6])[H:12])[H:11])[H:7]>>[C:2]1([H:8])=[C:4]([H:11])[C:3]1([H:9])[H:10].[O:1]([C:5](=[O:6])[H:12])[H:7],81.10318978363891
[O:1]([C@@:2]1([H:9])[C@:3]2([H:10])[O:4][C@@:5]1([H:11])[C@:6]2([O:7][H:13])[H:12])[H:8]>>[O:1]([C:2]([C@:5]1([H:11])[O+:4]=[C-:3][C@@:6]1([O:7][H:13])[H:12])([H:9])[H:10])[H:8],59.8312782766295
[O:1]([c+:2]1[n-:3][c:4]([H:8])[n:5][n:6]1[H:9])[H:7]>>[O:1](/[C:2]([N:3]1[C:4]([H:8])=[N:5]1)=[N:6]\[H:9])[H:7],97.40290661831793
[C:1]([C:2]([C:3]([C:4](=[O:5])[H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C-:4]#[O+:5].[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:6])([H:7])[H:8],86.6814239964225
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([H:11])[C:3]([H:12])([H:13])[C:4]1([H:14])[H:16])([H:8])([H:9])[H:10].[C:5](=[C:6]=[O:7])([H:15])[H:17],87.9303880515963
[N+:1](#[C-:2])[C@@:3]1([H:6])[C:4]([H:7])([H:8])[N:5]1[H:9]>>[N:1]#[C:2][C@@:3]1([H:6])[C:4]([H:7])([H:8])[N:5]1[H:9],40.09586165791001
[C:1]([C@@:2]1([H:11])[C@:3]2([H:13])[C@@:4]1([H:14])[C:5]([H:15])([H:16])[C@:6]2([O:7][H:12])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],79.0122364348909
[C:1]([C:2]([C:3]([C:4](=[O:5])[N:6]([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]1([H:8])([H:9])[C:2]([H:10])([H:11])[C:3]([H:12])([H:13])[C:4]1([O:5][H:7])[N:6]([H:14])[H:15],86.5094878549445
[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[O:3][C:4](=[N:5]/[H:13])/[C:6]1=[N:7]/[H:12])([H:8])([H:9])[H:10],95.166647434721
[C:1]([C:2]1([O:3][H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]([H:15])[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])/[C:7](=[C:6](\[C:5](=[C:4]([H:12])[H:13])[H:14])[H:15])[H:17])([H:8])([H:9])[H:10].[H:11][H:16],95.63798535910801
[C:1]1([H:8])([H:9])[C@:2]([O:3][H:12])([H:11])[C:4]([H:13])([H:14])[N:5]([H:15])[C@@:6]1([O:7][H:10])[H:16]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],70.2423772798099
